US06784182B2
4-(Piperidin-1-ylmethyl)piperidine bis-Hydrochloride Salt
A solution of 4-(piperidin-1-ylmethyl)pyridine (10.0 g, 0.056 mol; prepared using a similar procedure to that described in US430491) and platinum oxide (1.5 g) in 55 mL of ethanol and 18 mL of 12 N HCl was placed under an atmosphere of hydrogen (4.1 bar, 60 psig). After 15 h, the mixture was filtered, concentrated, and residue triturated with methanol affording 9.0 g of the title compound as a bis hydrochloride salt.

reactant | 4-(piperidin-1-ylmethyl)pyridine | N1(CCCCC1)CC1=CC=NC=C1 | C11H16N2
reactant | HCl | 12 N, 18 mL | Cl | ClH
solvent | ethanol | 55 mL | C(C)O | C2H6O
catalyst | platinum oxide | 1.5 g | [Pt]=O
product | 4-(Piperidin-1-ylmethyl)piperidine bis-Hydrochloride Salt | Cl.Cl.N1(CCCCC1)CC1CCNCC1 | InChI=1S/C11H22N2.2ClH/c1-2-8-13(9-3-1)10-11-4-6-12-7-5-11;;/h11-12H,1-10H2;2*1H
